US06930158B2
3a) Synthesis of 5,7-dimethyl-1-oxo-2-ethoxycarbonyl-1,2,3,4-tetrahydronaphthalene (XXV)
A suspension of 12.2 g (0.53 moles) of sodium hydride in a liter of toluene are maintained under stirring in a 2 liter flask for 2 hours at room temperature, and 85 ml (0.69 moles) of diethylcarbonate are then added. The mixture is heated to 90° C. and 25 g of 5,7-dimethyl-1-tetralone (0.14 moles) dissolved in 150 ml of toluene are added, in about 2 hours. The reaction mixture is kept under stirring for a further 8 hours at 90° C. until the reagent disappears. At the end the reaction mixture is hydrolyzed by pouring it into ice containing 50 ml of glacial acetic acid. The phases are separated and extracted repeatedly with ethyl ether, the overall organic phase is washed with water saturated with NaHCO3, then with water until neutrality and finally dried on anhydrous Na2SO4. Upon removal of the solvents at reduced pressure, 33 g of the desired pure ketoester (XXV) are obtained in the form of a red oil (96% yield). NMR spectra show that the product is present in solution in ketone and enolic form in a ratio of 55% and 45% respectively.

reactant | sodium hydride | 0.53 moles, 12.2 g | [H-].[Na+]
reactant | diethylcarbonate | 0.69 moles, 85 ml | C(C)OC(OCC)=O | C5H10O3
reactant | 5,7-dimethyl-1-tetralone | 0.14 moles, 25 g | CC1=C2CCCC(C2=CC(=C1)C)=O | C12H14O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | toluene | a liter | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 5,7-dimethyl-1-oxo-2-ethoxycarbonyl-1,2,3,4-tetrahydronaphthalene | 96% yield | CC1=C2CCC(C(C2=CC(=C1)C)=O)C(=O)OCC | C15H18O3
